US05834493
5-methoxy-3-[N-(3-(4-fluoro-phenyl)-3-oxo-propyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole
Triethylamine (0.9 ml; 0.0063 mol) was added to a solution of 3-chloro-4'-fluoropropiophenone (1.2 g; 0.0063 mol) in diethyl ether (10 ml). The resulting mixture was stirred for 3 hours at room temperature. Then the mixture was filtered and the filtrate was concentrated under vacuum. The residue was taken up with a mixture of compound of Description 5 [5-methoxy-3-(1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole] (0.79 g; 0.0028 mol), triethylamine (0.8 ml; 0.0057 mol) in methylene chloride (20 ml). The reaction mixture was refluxed for 4 hours. Then the reaction was concentrated under vacuum and the residue was triturated with 1N hydrochloric acid. The aqueous phase was decanted, and the guming solid was twice washed with water and triturated with diethyl ether. The title compound hydrochloride was collected by filtration, washed with diethyl ether and recrystallized with a mixture (1/2) of ethyl acetate/acetone. 0.86 g of the desired compound were obtained.

reactant | Triethylamine | 0.0063 mol, 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4'-fluoropropiophenone | 0.0063 mol, 1.2 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
reactant | 5-methoxy-3-(1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CNCCC1 | C15H18N2O
reactant | triethylamine | 0.0057 mol, 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-methoxy-3-[N-(3-(4-fluoro-phenyl)-3-oxo-propyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole | 0.86 g | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CCC(=O)C1=CC=C(C=C1)F | C24H25FN2O2
